US07414050B2
[4-(2-Azido-1-azidomethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester (240 mg, 0.757 mmol, as prepared above) was hydrogenated at 40 psi H2 over 10% Pd/C (120 mg) for 1 h. The reaction mixture was filtered through a pad of Celite, concentrated and dried in vacuo to afford [4-(2-amino-1-aminomethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester (169 mg, 64%): 1H-NMR (CD3OD; 400 MHz): δ 7.35 (d, 2H, J=8.6 Hz), 7.12 (d, 2H, J=8.6 Hz), 2.90 (m, 2H), 2.79 (m, 2H), 2.69 (m, 1H), 1.42 (s, 9H).

reactant | [4-(2-Azido-1-azidomethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester | 0.757 mmol, 240 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(CN=[N+]=[N-])CN=[N+]=[N-])=O | C14H19N7O2
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | [4-(2-amino-1-aminomethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester | 169 mg, 64% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(CN)CN)=O | C14H23N3O2
